US04529698
(E) (trans)-3-t-Butoxycarbonylamino-4-ethyl-2-oxo-1-azetidinesulfonic acid, tetrabutylammonium salt
To 2 ml of absolute pyridine in 20 ml of dry dichloromethane is added trimethylsilyloxysulfonyl chloride (3.7 ml) in 5 ml of dry dichloromethane. The addition is accomplished at -30° C., under nitrogen, over a 10 minute period. After stirring at ambient temperature for 30 minutes, the flask is evacuated to yield a pyridine-sulfur trioxide complex. (trans)-3-t-Butoxycarbonylamino-4-ethyl-2-azetidinone (2.67 g) and 20 ml of dry pyridine are added to the flask which is then placed in an oil bath preheated to 90° C. After 15 minutes a clear solution is obtained and poured into 200 ml of a 1M solution of dibasic potassium phosphate. After the addition of 27 g of dibasic potassium phosphate and 100 ml of water a clear solution is obtained. The solution is extracted with two 60 ml portions of ethyl acetate. Tetrabutylammonium hydrogensulfate is added to the aqueous layer, and the aqueous solution is extracted with three 100 ml portions of dichloromethane and the combined organic layers are dried over MgSO4. Concentration in vacuo yields 6.9 g of the title compound.

reactant | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
reactant | trimethylsilyloxysulfonyl chloride | 3.7 ml | C[Si](OS(=O)(=O)Cl)(C)C | C3H9ClO3SSi
reactant | (trans)-3-t-Butoxycarbonylamino-4-ethyl-2-azetidinone | 2.67 g | C(C)(C)(C)OC(=O)N[C@@H]1C(N[C@H]1CC)=O | C10H18N2O3
reactant | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
reactant | potassium phosphate | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | potassium phosphate | 27 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | water | 100 ml | O | H2O
product | (trans)-3-t-Butoxycarbonylamino-4-ethyl-2-oxo-1-azetidinesulfonic acid, tetrabutylammonium salt | 6.9 g | C(CCC)[N+](CCCC)(CCCC)CCCC.C(C)(C)(C)OC(=O)N[C@@H]1C(N([C@H]1CC)S(=O)(=O)[O-])=O | InChI=1S/C16H36N.C10H18N2O6S/c1-5-9-13-17(14-10-6-2,15-11-7-3)16-12-8-4;1-5-6-7(8(13)12(6)19(15,16)17)11-9(14)18-10(2,3)4/h5-16H2,1-4H3;6-7H,5H2,1-4H3,(H,11,14)(H,15,16,17)/q+1;/p-1/t;6-,7-/m.0/s1
